US07737149B2
N-[5-[2-(3,5-Dimethoxyphenyl)ethyl]-1H-pyrazol-3-yl]-3-methoxy-benzamide
1-Chloro-N,N,2-trimethylprop-1-en-1-amine (89 μl, 0.67 mmol, 1.05 eq) was added dropwise to 3-methoxybenzoic acid (97 mg, 0.63 mmol, 1 eq) in DCM (1.5 ml) at ambient temperature. After stirring at ambient temperature for 1.5 h, a solution of tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate (199 mg, 0.57 mmol, 0.9 eq) and pyridine (142 μL, 1.74 mmol, 2.75 eq) in DCM (2 ml) was added to the reaction mixture and stirring was continued at ambient temperature for a further 3 h. A solution of TFA (386 μL, 5.2 mmol, 8.25 eq) in DCM (3.5 ml) was then added and stirring was continued at ambient temperature for 18 h. The reaction mixture was concentrated and the crude product was purified by reverse-phase prep. HPLC (basic) using a gradient of acetonitrile in water containing 1% ammonium hydroxide solution. The clean fractions were taken and evaporated to afford the title compound as a colourless solid (129 mg, 59% yield). 1H NMR (399.902 MHz, DMSO) δ 2.89 (4H, s), 3.73 (6H, s), 3.84 (3H, s), 6.34-6.33 (1H, m), 6.43 (2H, d), 6.48 (1H, s), 7.12-7.10 (1H, m), 7.42-7.37 (1H, m), 7.59-7.56 (2H, m), 10.65 (1H, br.s), 12.16 (1H, br.s). MS: m/z 382 (MH+).

reactant | 1-Chloro-N,N,2-trimethylprop-1-en-1-amine | 0.67 mmol, 89 μl, 1.05 eq | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | 3-methoxybenzoic acid | 0.63 mmol, 97 mg, 1 eq | COC=1C=C(C(=O)O)C=CC1 | C8H8O3
reactant | tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate | 0.57 mmol, 199 mg, 0.9 eq | NC1=CC(=NN1C(=O)OC(C)(C)C)CCC1=CC(=CC(=C1)OC)OC | C18H25N3O4
reactant | pyridine | 1.74 mmol, 142 μL, 2.75 eq | N1=CC=CC=C1 | C5H5N
reactant | TFA | 5.2 mmol, 386 μL, 8.25 eq | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1.5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 3.5 ml | C(Cl)Cl | CH2Cl2
product | N-[5-[2-(3,5-Dimethoxyphenyl)ethyl]-1H-pyrazol-3-yl]-3-methoxy-benzamide | 129 mg, 59% yield | COC=1C=C(C=C(C1)OC)CCC1=CC(=NN1)NC(C1=CC(=CC=C1)OC)=O | C21H23N3O4
